US04169855
A mixture of 2-[[[5-(methylamino)methyl-2-furanyl]methyl]thio]ethanamine (0.9 g) and N-methyl-1-methylthio-2-nitro-etheneamine was heated at 100°-120° for 30 mins under water pump pressure. The residue was purified by column chromatography (silica/methanol:0.88 ammonia) to give N-[2-[[[5-(methylamino)methyl-2-furanyl]methyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine which was crystallised from acetonitrile m.p. 106°-108° (0.65 g).

reactant | 2-[[[5-(methylamino)methyl-2-furanyl]methyl]thio]ethanamine | 0.9 g | CNCC1=CC=C(O1)CSCCN | C9H16N2OS
reactant | N-methyl-1-methylthio-2-nitro-etheneamine | CNC(=C[N+](=O)[O-])SC | C4H8N2O2S
product | N-[2-[[[5-(methylamino)methyl-2-furanyl]methyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine | CNCC1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])NC | C12H20N4O3S
